US08580147B2
4-Ethoxy-2,2′,3,3′-tetrafluoro-1,1′-biphenyl (s-7) (8.0 g) and THF (100 ml) were placed in a reaction vessel under an atmosphere of nitrogen, and cooled to −74° C. sec-Butyllithium (1.00M; n-hexane and cyclohexane solution; 31 ml) was added dropwise in the temperature range of −74° C. to −70° C., and the stirring was continued for another 2 hours. 1,4-Dioxaspiro[4.5]decan-8-one (s-2) (4.9 g) in a THF (50 ml) solution was added dropwise in the temperature range of −75° C. to −70° C., and the stirring was continued for 8 hours while the mixture was allowed to return to 25° C. The resulting reaction mixture was poured into a vessel containing a 1N-HCl aqueous solution (100 ml) and ethyl acetate (100 ml) and mixed with them. The mixture was then allowed to stand until it had separated into organic and aqueous layers, and the extraction was carried out. The resulting organic layers were separated, and washed with a saturated aqueous solution of sodium hydrogencarbonate and water, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. p-Toluenesulfonic acid (0.27 g) and toluene (100 ml) were added and the mixture was heated to reflux for 2 hours, while distilled water was removed. After the reaction solution had been cooled to 30° C., water (200 ml) and toluene (100 ml) were added and mixed with it. The mixture was then allowed to stand until it had separated into two layers of organic and aqueous layers, and the extraction into an organic layer was carried out. The resulting organic layers were separated, and washed with a saturated aqueous solution of sodium hydrogencarbonate and water, and then dried over anhydrous magnesium sulfate. The resulting solution was purified by column chromatography using silica gel as a stationary phase powder and toluene as an eluent. The product was dissolved in a mixed solvent of toluene (100 ml) and Solmix A-11 (100 ml), and Pd/C (0.1 g) was added. The mixture was stirred at room temperature under a hydrogen atmosphere until hydrogen absorption had ceased. After the completion of the reaction, Pd/C was removed, and the solvent was distilled off. The resulting residue was purified by column chromatography using silica gel as a stationary phase powder and toluene as an eluent, and further purified by recrystallization from heptane and dried to give 8-(4′-ethoxy-2,2′,3,3′-tetrafluorobiphenyl-4-yl)-1,4-dioxaspiro[4.5]decane (s-17) (6.5 g). The yield based on the compound (7) was 53.2%.

reactant | 4-Ethoxy-2,2′,3,3′-tetrafluoro-1,1′-biphenyl | 8.0 g | C(C)OC1=C(C(=C(C=C1)C1=C(C(=CC=C1)F)F)F)F | C14H10F4O
reactant | sec-Butyllithium | 1.00M, 31 ml | C(C)(CC)[Li]
reactant | 1,4-Dioxaspiro[4.5]decan-8-one | 4.9 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | HCl | 100 ml | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 8-(4′-ethoxy-2,2′,3,3′-tetrafluorobiphenyl-4-yl)-1,4-dioxaspiro[4.5]decane | 6.5 g | C(C)OC1=C(C(=C(C=C1)C1=C(C(=C(C=C1)C1CCC2(OCCO2)CC1)F)F)F)F | C22H22F4O3
